US07947684B2
B. 3-(1,2,3,6-Tetrahydropyridine-4-yl)benzonitrile
3-Cyanophenyl boronic acid (3.0 g, 20.4 mmol) and 4-(trifluoromethanesulfonyloxy)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (7.0 g, 21.1 mmol) are dissolved in acetonitrile (100 ml) and 0.4 M aqueous sodium carbonate (100 ml). The solution is degassed and treated with palladium tetrakistriphenylphosphine (1.2 g, 1.04 mmol) at 90° C. for 1 hour. The reaction is cooled, filtered and the filtrate is concentrated to an oil. The oil is extracted with methylene chloride (3×) and the solvent is removed under vacuum. The residue is chromatographed (15% ethyl acetate/hexane) to give the title compound as a white solid (6.0 g, 21.1 mmol). This material is treated with methylene chloride (100 ml) and 40% TFA/methylene chloride (100 ml) at ambient temperature for 2 h. The solvents are removed under vacuum and the residue is chromatographed (NH4OH/MeOH/CH2Cl2, 1:5:94) to give title compound as a brown solid contaminated with inorganic salts (4.6 g).1H NMR (CDCl3, 300 MHz) δ7.87 (s, 1H), 7.80 (d, 1H), 7.70 (d, 1H), 7.58 (t, 1H), 6,28 (m, 1H), 3.90 (m, 2H), 3.49 (t, 2H), 2.83 (m, 2H). EI MS M+ 184.

reactant | 3-Cyanophenyl boronic acid | 20.4 mmol, 3.0 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 4-(trifluoromethanesulfonyloxy)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 21.1 mmol, 7.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | sodium carbonate | 0.4 M, 100 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 3-(1,2,3,6-Tetrahydropyridine-4-yl)benzonitrile | 21.1 mmol, 6.0 g | N1CCC(=CC1)C=1C=C(C#N)C=CC1 | C12H12N2
